US04487929
(B)(b) A mixture of 14.52 g (0.06 mol) of 4-methyl-4-[2-(tetrahydro-2-pyranyloxy)ethyl]pyrazolidine-3,5-dione and 6.72 g (0.066 mol) of methyl penta-2,4-dienoate in 150 ml of dry dichloromethane was stirred at room temperature under a stream of nitrogen. A solution of 26.64 g (0.06 mol) of lead tetraacetate in 100 ml of dry dichloromethane was added dropwise, the blue color being allowed to fade between additions. When the addition was complete and no blue color persisted, the resulting suspension was filtered. The filtrate was washed with saturated aqueous sodium bicarbonate, dried over magnesium sulfate and evaporated to give 8.12 g (38%) of methyl 2,3,5,8-tetrahydro-2-methyl-1,3-dioxo-2-[2-(tetrahydro-2-pyranyloxy)ethyl]-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate having a melting point of 126.5°-127.6° C. (from diethyl ether).

reactant | 4-methyl-4-[2-(tetrahydro-2-pyranyloxy)ethyl]pyrazolidine-3,5-dione | 0.06 mol, 14.52 g | CC1(C(NNC1=O)=O)CCOC1OCCCC1 | C11H18N2O4
reactant | methyl penta-2,4-dienoate | 0.066 mol, 6.72 g | C(C=CC=C)(=O)OC | C6H8O2
reactant | lead tetraacetate | 0.06 mol, 26.64 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | methyl 2,3,5,8-tetrahydro-2-methyl-1,3-dioxo-2-[2-(tetrahydro-2-pyranyloxy)ethyl]-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 8.12 g, 38% | CC1(C(N2N(CC=CC2C(=O)OC)C1=O)=O)CCOC1OCCCC1 | C17H24N2O6
